US07253194B2
[1-Formyl-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester (26)
A suspension of lithium aluminum hydride (263 mg, 6.92 mmol) in THF (20 mL) was added slowly to [1-(methoxy-methyl-carbamoyl)-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester (3.4 g, 6.3 mmol) in THF (75 mL) at −20° C. The reaction was complete (silica gel, EA, Rf 0.48) in 15 minutes. Saturated sodium potassium tartrate (10 mL) was added, and the solvent removed. Water was added and the residue extracted with Et2O. The Et2O was washed with brine, dried and filtered. Removal of the solvent gave the title compound (2.552 g, 84%). ESMS 482 (M+H+) 1H NMR ( ) 13C NMR ( )

reactant | lithium aluminum hydride | 6.92 mmol, 263 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [1-(methoxy-methyl-carbamoyl)-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester | 6.3 mmol, 3.4 g | C(C)(C)(C)OC(NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(N(C)OC)=O)=O | C32H36N4O4
reactant | EA | CC(OCC)=O | C4H8O2
reactant | sodium potassium tartrate | 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | [1-Formyl-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester | 2.552 g, 84% | C(C)(C)(C)OC(NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O)=O | C30H31N3O3
